US04770695
To a solution of 4-bromo-2-fluoroaniline (58.6 g) in conc. sulfuric acid (100 ml), there was dropwise added a mixture of conc. nitric acid (25.3 g) and conc. sulfuric acid (15 ml) at a temperature of 0° to -10° C. The resultant mixture was stirred at 0°-5° C. for 1 hour, poured into ice-water and extracted with toluene. The toluene layer was washed with water and an aqueous sodium hydrogen carbonate solution and concentrated. The residue was purified by silica gel chromatography to give 16.4 g of 4-bromo-2-fluoro-5-nitroaniline. M.P., 90°-92° C.

reactant | 4-bromo-2-fluoroaniline | 58.6 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | nitric acid | 25.3 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 4-bromo-2-fluoro-5-nitroaniline | 16.4 g | BrC1=CC(=C(N)C=C1[N+](=O)[O-])F | C6H4BrFN2O2
